US06008237
Step B: Preparation of 5-[3-(3-(2-propyl-4-phenoxyphenoxy)propoxy) phenyl]-2,4-oxazolidinedione
A solution of methyl 3-(3-(2-propyl-4-phenoxyphenoxy)propoxy)mandelate (194 mg), urea (39 mg) and sodium methoxide (0.90 mL, 0.5 M) was refluxed overnight. The reaction mixture was partitioned between ethyl acetate and water. The organic layer was washed twice with water, dried over sodium sulfate, filtered and evaporated to an oil, which was chromatographed over silica gel with 3% of methanol in methylenechloride to afford the title compound.

reactant | methyl 3-(3-(2-propyl-4-phenoxyphenoxy)propoxy)mandelate | 194 mg | C(CC)C1=C(OCCCOC=2C=C(C(C(=O)OC)O)C=CC2)C=CC(=C1)OC1=CC=CC=C1 | C27H30O6
reactant | urea | 39 mg | NC(=O)N | CH4N2O
reactant | sodium methoxide | 0.5 M, 0.90 mL | C[O-].[Na+]
product | 5-[3-(3-(2-propyl-4-phenoxyphenoxy)propoxy) phenyl]-2,4-oxazolidinedione | C(CC)C1=C(OCCCOC=2C=C(C=CC2)C2C(NC(O2)=O)=O)C=CC(=C1)OC1=CC=CC=C1 | C27H27NO6
